US07893060B2
5-Chloro-2-(4-cyclopropylpiperazin-1-ylmethyl)-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine
Prepared according to the method used in the preparation of 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine using 1-cyclopropylpiperazine in place of 4-azetidin-1-ylpiperidine. The title compound was obtained as a white solid (117 mg, 56%).

reactant | 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C18H25ClN6OS
reactant | 1-cyclopropylpiperazine | C1(CC1)N1CCNCC1 | C7H14N2
product | 5-Chloro-2-(4-cyclopropylpiperazin-1-ylmethyl)-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCN(CC2)C2CC2)N2CCOCC2 | C17H23ClN6OS
